** Name: SimpleOpAmp79

.MACRO SimpleOpAmp79 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=11e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=2e-6 W=6e-6
mDiodeTransistorPmos3 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=35e-6
mDiodeTransistorPmos4 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=5e-6
mNormalTransistorNmos5 out outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=135e-6
mNormalTransistorNmos6 FirstStageYinnerStageBias inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=115e-6
mNormalTransistorNmos7 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=62e-6
mNormalTransistorNmos8 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=1e-6 W=62e-6
mNormalTransistorNmos9 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=135e-6
mNormalTransistorNmos10 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=211e-6
mNormalTransistorNmos11 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=6e-6 W=211e-6
mNormalTransistorNmos12 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=2e-6 W=176e-6
mNormalTransistorPmos13 out ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos14 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=12e-6
mNormalTransistorPmos15 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=40e-6
mNormalTransistorPmos16 FirstStageYout1 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=600e-6
mNormalTransistorPmos17 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=152e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=152e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp79

** Expected Performance Values: 
** Gain: 85 dB
** Power consumption: 3.72401 mW
** Area: 6878 (mu_m)^2
** Transit frequency: 19.3341 MHz
** Transit frequency with error factor: 19.3339 MHz
** Slew rate: 21.5194 V/mu_s
** Phase margin: 71.0468°
** CMRR: 141 dB
** VoutMax: 3.78001 V
** VoutMin: 0.360001 V
** VcmMax: 4.93001 V
** VcmMin: 1.37001 V


** Expected Currents: 
** NormalTransistorPmos: -81.3079 muA
** NormalTransistorPmos: -24.4349 muA
** NormalTransistorPmos: -181.346 muA
** NormalTransistorPmos: -309.52 muA
** NormalTransistorPmos: -181.346 muA
** NormalTransistorPmos: -309.52 muA
** NormalTransistorNmos: 181.347 muA
** NormalTransistorNmos: 181.346 muA
** NormalTransistorNmos: 181.347 muA
** NormalTransistorNmos: 181.346 muA
** NormalTransistorNmos: 256.346 muA
** NormalTransistorNmos: 256.345 muA
** NormalTransistorNmos: 128.174 muA
** NormalTransistorNmos: 128.174 muA
** DiodeTransistorNmos: 81.3071 muA
** DiodeTransistorNmos: 24.4341 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.21801  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX2: 0.567001  V
** out: 2.5  V
** outSourceVoltageBiasXXpXX1: 3.96101  V
** outVoltageBiasXXnXX1: 0.968001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.377001  V
** innerTransistorStack1Load2: 0.384001  V
** innerTransistorStack2Load2: 0.385001  V
** out1: 0.590001  V
** sourceGCC1: 3.96501  V
** sourceGCC2: 3.96501  V
** sourceTransconductance: 1.88701  V


.END