** Name: SimpleOpAmp86

.MACRO SimpleOpAmp86 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX0 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=10e-6 W=20e-6
mDiodeTransistorNmos2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=1e-6 W=84e-6
mDiodeTransistorPmos3 ibias ibias sourcePmos sourcePmos pmos4 L=6e-6 W=8e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourceTransconductance sourceTransconductance pmos4 L=2e-6 W=28e-6
mNormalTransistorNmos5 out FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=5e-6 W=360e-6
mNormalTransistorNmos6 outVoltageBiasXXpXX1 outVoltageBiasXXnXX0 sourceNmos sourceNmos nmos4 L=10e-6 W=363e-6
mNormalTransistorNmos7 FirstStageYout1 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=1e-6 W=84e-6
mNormalTransistorPmos8 out outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=130e-6
mNormalTransistorPmos9 outVoltageBiasXXnXX0 ibias sourcePmos sourcePmos pmos4 L=6e-6 W=8e-6
mNormalTransistorPmos10 sourceTransconductance ibias sourcePmos sourcePmos pmos4 L=6e-6 W=593e-6
mNormalTransistorPmos11 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=130e-6
mNormalTransistorPmos12 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance pmos4 L=2e-6 W=395e-6
mNormalTransistorPmos13 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance pmos4 L=2e-6 W=395e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp86

** Expected Performance Values: 
** Gain: 88 dB
** Power consumption: 3.93101 mW
** Area: 11608 (mu_m)^2
** Transit frequency: 31.6661 MHz
** Transit frequency with error factor: 31.6656 MHz
** Slew rate: 74.6619 V/mu_s
** Phase margin: 77.3494°
** CMRR: 136 dB
** VoutMax: 3.57001 V
** VoutMin: 0.820001 V
** VcmMax: 3.5 V
** VcmMin: 0.760001 V


** Expected Currents: 
** NormalTransistorNmos: 180.986 muA
** NormalTransistorPmos: -10.0979 muA
** NormalTransistorPmos: -287.535 muA
** NormalTransistorPmos: -287.536 muA
** NormalTransistorNmos: 287.536 muA
** NormalTransistorNmos: 287.537 muA
** DiodeTransistorNmos: 287.536 muA
** NormalTransistorPmos: -756.056 muA
** NormalTransistorPmos: -287.535 muA
** NormalTransistorPmos: -287.535 muA
** DiodeTransistorNmos: 10.0971 muA
** DiodeTransistorPmos: -180.985 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 3.78501  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outVoltageBiasXXnXX0: 0.648001  V
** outVoltageBiasXXpXX1: 1.93601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.34801  V
** innerTransistorStack2Load2: 0.606001  V
** out1: 1.22801  V
** sourceGCC1: 2.99701  V
** sourceGCC2: 2.99701  V


.END