** Name: SimpleOpAmp92

.MACRO SimpleOpAmp92 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=6e-6
mDiodeTransistorNmos2 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=11e-6
mDiodeTransistorPmos3 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=6e-6 W=6e-6
mDiodeTransistorPmos4 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mNormalTransistorNmos5 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=2e-6 W=88e-6
mNormalTransistorNmos6 sourceTransconductance ibias sourceNmos sourceNmos nmos4 L=3e-6 W=213e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=13e-6
mNormalTransistorNmos8 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=3e-6 W=132e-6
mNormalTransistorNmos9 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=2e-6 W=88e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=3e-6 W=132e-6
mNormalTransistorPmos11 out FirstStageYout1 sourcePmos sourcePmos pmos4 L=1e-6 W=11e-6
mNormalTransistorPmos12 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=6e-6 W=12e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp92

** Expected Performance Values: 
** Gain: 53 dB
** Power consumption: 1.06201 mW
** Area: 1997 (mu_m)^2
** Transit frequency: 17.7181 MHz
** Transit frequency with error factor: 17.7181 MHz
** Slew rate: 18.9961 V/mu_s
** Phase margin: 84.7978°
** CMRR: 94 dB
** VoutMax: 4.34001 V
** VoutMin: 0.480001 V
** VcmMax: 4.04001 V
** VcmMin: 0.730001 V


** Expected Currents: 
** NormalTransistorNmos: 11.7541 muA
** NormalTransistorPmos: -23.0569 muA
** NormalTransistorNmos: 83.8041 muA
** NormalTransistorNmos: 83.8041 muA
** DiodeTransistorPmos: -83.8049 muA
** NormalTransistorPmos: -83.8049 muA
** NormalTransistorNmos: 190.666 muA
** NormalTransistorNmos: 83.8041 muA
** NormalTransistorNmos: 83.8041 muA
** DiodeTransistorNmos: 23.0561 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -11.7549 muA


** Expected Voltages: 
** ibias: 0.584001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 3.62901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** out1: 3.78001  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END