** Name: SimpleOpAmp113

.MACRO SimpleOpAmp113 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=3e-6 W=14e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=15e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=6e-6 W=21e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=9e-6 W=9e-6
mDiodeTransistorPmos5 FirstStageYout1 FirstStageYout1 sourcePmos sourcePmos pmos4 L=6e-6 W=6e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=6e-6 W=66e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=28e-6
mNormalTransistorNmos8 sourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=108e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=3e-6 W=104e-6
mNormalTransistorNmos10 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=6e-6 W=66e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=22e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=2e-6 W=22e-6
mNormalTransistorPmos13 out FirstStageYout1 sourcePmos sourcePmos pmos4 L=6e-6 W=6e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=9e-6 W=13e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp113

** Expected Performance Values: 
** Gain: 53 dB
** Power consumption: 0.486001 mW
** Area: 2083 (mu_m)^2
** Transit frequency: 4.43401 MHz
** Transit frequency with error factor: 4.43379 MHz
** Slew rate: 6.83799 V/mu_s
** Phase margin: 80.2142°
** CMRR: 87 dB
** VoutMax: 3.91001 V
** VoutMin: 0.600001 V
** VcmMax: 3.60001 V
** VcmMin: 1.26001 V


** Expected Currents: 
** NormalTransistorNmos: 18.6811 muA
** NormalTransistorPmos: -26.6649 muA
** NormalTransistorNmos: 20.9511 muA
** NormalTransistorNmos: 20.9511 muA
** DiodeTransistorPmos: -20.9519 muA
** NormalTransistorPmos: -20.9519 muA
** NormalTransistorNmos: 68.5671 muA
** NormalTransistorNmos: 68.5661 muA
** NormalTransistorNmos: 20.9511 muA
** NormalTransistorNmos: 20.9511 muA
** DiodeTransistorNmos: 26.6641 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -18.6819 muA


** Expected Voltages: 
** ibias: 1.12201  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX2: 0.558001  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 3.41501  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerStageBias: 0.567001  V
** out1: 3.34801  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END