** Name: SimpleOpAmp115

.MACRO SimpleOpAmp115 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=4e-6 W=11e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=4e-6 W=21e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=7e-6 W=10e-6
mDiodeTransistorPmos4 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=10e-6
mDiodeTransistorPmos5 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=55e-6
mNormalTransistorNmos6 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=7e-6 W=86e-6
mNormalTransistorNmos7 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=4e-6 W=4e-6
mNormalTransistorNmos8 sourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=4e-6 W=32e-6
mNormalTransistorNmos9 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=4e-6 W=121e-6
mNormalTransistorNmos10 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=7e-6 W=86e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=6e-6 W=74e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=6e-6 W=74e-6
mNormalTransistorPmos13 out FirstStageYout1 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 pmos4 L=4e-6 W=7e-6
mNormalTransistorPmos14 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=56e-6
mNormalTransistorPmos15 FirstStageYout1 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=55e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp115

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 0.348001 mW
** Area: 3386 (mu_m)^2
** Transit frequency: 4.96701 MHz
** Transit frequency with error factor: 4.96716 MHz
** Slew rate: 5.75517 V/mu_s
** Phase margin: 75.6305°
** CMRR: 128 dB
** VoutMax: 3.41001 V
** VoutMin: 0.740001 V
** VcmMax: 3.67001 V
** VcmMin: 1.40001 V


** Expected Currents: 
** NormalTransistorNmos: 1.92301 muA
** NormalTransistorPmos: -10.7769 muA
** NormalTransistorNmos: 23.4911 muA
** NormalTransistorNmos: 23.4901 muA
** NormalTransistorPmos: -23.4919 muA
** NormalTransistorPmos: -23.4909 muA
** DiodeTransistorPmos: -23.4919 muA
** NormalTransistorNmos: 57.7571 muA
** NormalTransistorNmos: 57.7561 muA
** NormalTransistorNmos: 23.4911 muA
** NormalTransistorNmos: 23.4911 muA
** DiodeTransistorNmos: 10.7761 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 10.0001 muA
** DiodeTransistorPmos: -1.92399 muA


** Expected Voltages: 
** ibias: 1.16701  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX2: 0.555001  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 4.20301  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerSourceLoad2: 4.28101  V
** innerStageBias: 0.469001  V
** out1: 2.84601  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END