** Name: SimpleOpAmp117

.MACRO SimpleOpAmp117 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 nmos4 L=4e-6 W=18e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX2 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=4e-6 W=21e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceTransconductance sourceTransconductance nmos4 L=5e-6 W=107e-6
mDiodeTransistorPmos4 inputVoltageBiasXXpXX1 inputVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=6e-6 W=6e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX0 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=7e-6 W=31e-6
mDiodeTransistorPmos6 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=37e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=4e-6 W=94e-6
mNormalTransistorNmos8 out outVoltageBiasXXnXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 nmos4 L=5e-6 W=49e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=4e-6 W=76e-6
mNormalTransistorNmos10 sourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=4e-6 W=178e-6
mNormalTransistorNmos11 FirstStageYinnerSourceLoad2 outVoltageBiasXXnXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 nmos4 L=5e-6 W=49e-6
mNormalTransistorNmos12 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=4e-6 W=415e-6
mNormalTransistorNmos13 FirstStageYsourceGCC1 in1 sourceTransconductance sourceTransconductance nmos4 L=5e-6 W=49e-6
mNormalTransistorNmos14 FirstStageYsourceGCC2 in2 sourceTransconductance sourceTransconductance nmos4 L=5e-6 W=49e-6
mNormalTransistorPmos15 out inputVoltageBiasXXpXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 pmos4 L=6e-6 W=6e-6
mNormalTransistorPmos16 outVoltageBiasXXnXX1 outVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=7e-6 W=138e-6
mNormalTransistorPmos17 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourcePmos sourcePmos pmos4 L=1e-6 W=37e-6
Capacitor1 out sourceNmos 10e-12
.EOM SimpleOpAmp117

** Expected Performance Values: 
** Gain: 89 dB
** Power consumption: 1.45301 mW
** Area: 6052 (mu_m)^2
** Transit frequency: 3.95301 MHz
** Transit frequency with error factor: 3.95279 MHz
** Slew rate: 19.8342 V/mu_s
** Phase margin: 83.6519°
** CMRR: 128 dB
** VoutMax: 3.82001 V
** VoutMin: 0.680001 V
** VcmMax: 3.51001 V
** VcmMin: 1.34001 V


** Expected Currents: 
** NormalTransistorNmos: 36.5531 muA
** NormalTransistorNmos: 45.2101 muA
** NormalTransistorPmos: -161.422 muA
** NormalTransistorNmos: 18.6661 muA
** NormalTransistorNmos: 18.6661 muA
** DiodeTransistorPmos: -18.6669 muA
** NormalTransistorPmos: -18.6669 muA
** NormalTransistorPmos: -18.6669 muA
** NormalTransistorNmos: 198.754 muA
** NormalTransistorNmos: 198.753 muA
** NormalTransistorNmos: 18.6661 muA
** NormalTransistorNmos: 18.6661 muA
** DiodeTransistorNmos: 161.423 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 10.0001 muA
** DiodeTransistorPmos: -36.5539 muA
** DiodeTransistorPmos: -45.2109 muA


** Expected Voltages: 
** ibias: 1.12201  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX1: 2.83801  V
** out: 2.5  V
** outSourceVoltageBiasXXnXX2: 0.555001  V
** outVoltageBiasXXnXX1: 2.65001  V
** outVoltageBiasXXpXX0: 3.75601  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.94501  V
** innerSourceLoad2: 4.26801  V
** innerStageBias: 0.487001  V
** innerTransistorStack2Load2: 4.41901  V
** sourceGCC1: 2.09501  V
** sourceGCC2: 2.09501  V


.END